US06509328B1
8-(2-Fluoro-phenyl)-4-(2-imidazol-1-yl-thiazol-4-yl)-1,3-dihydro-benzo [b][1,4]diazepin-2-one
Prepared from {2′-fluoro-3-[3-(2-imidazol-1-yl-thiazol-4-yl)-3-oxo-propionylamino]-biphenyl-4-yl}-carbamic acid tert.-butyl ester (Example K91) by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a light yellow solid (46 mg).

reactant | {2′-fluoro-3-[3-(2-imidazol-1-yl-thiazol-4-yl)-3-oxo-propionylamino]-biphenyl-4-yl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)NC(CC(=O)C=1N=C(SC1)N1C=NC=C1)=O)=O | C26H24FN5O4S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-(2-Fluoro-phenyl)-4-(2-imidazol-1-yl-thiazol-4-yl)-1,3-dihydro-benzo [b][1,4]diazepin-2-one | 46 mg | FC1=C(C=CC=C1)C=1C=CC2=C(NC(CC(=N2)C=2N=C(SC2)N2C=NC=C2)=O)C1 | C21H14FN5OS
